US08212068B2
LAH (lithium aluminum hydride, 1.10 g, 29.0 mmol) was suspended in ether (50 ml), and the slurry was kept at 0° C. Thereto was slowly added dropwise a solution of 8-methylnonanoic acid ethyl ester (5.81 g, 29.0 mmol) in ether (20 ml). After the completion of the dropwise addition, the slurry was stirred at room temperature for 2 hr and 10% aqueous potassium hydrogen sulfate solution (50 ml) was slowly added to the reaction mixture. Ether (100 ml) was further added, and the aqueous layer was separated from the organic layer. The organic layer was washed with saturated brine (50 ml), and dried over anhydrous magnesium sulfate. Magnesium sulfate was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was distilled under reduced pressure (60 to 65° C./2 mmHg) to give 8-methyl-1-nonanol (4.27 g, 27.0 mmol) as a colorless oil.

reactant | LAH | 29.0 mmol, 1.10 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 8-methylnonanoic acid ethyl ester | 29.0 mmol, 5.81 g | C(C)OC(CCCCCCC(C)C)=O | C12H24O2
reactant | potassium hydrogen sulfate | 50 ml | S(=O)(=O)(O)[O-].[K+]
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | Ether | 100 ml | CCOCC | C4H10O
product | 8-methyl-1-nonanol | 27.0 mmol, 4.27 g | CC(CCCCCCCO)C | C10H22O
